US09226916B2
rac-[(3R,4S)-1-(5′-Cyano-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-carbonyl)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester
A solution of [(3R,4S)-4-(3,4-Dichloro-phenyl)-1-(piperidine-4-carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester (50 mg, 0.10 mmol), 6-chloronicotinonitrile (21 mg, 0.15 mmol) in N-methylpyrrolidinone (0.5 mL) was treated with N,N-diisopropyl ethyl amine (52 μl, 0.30 mmol). The solution was stirred for 6 h at ambient temperature before it was diluted with ethyl acetate (15 mL) and washed with an aqueous solution of sodium carbonate (1 M, 15 mL). The organic layer was separated and washed with brine (15 mL) and the aqueous layers were extracted with ethyl acetate (20 mL). The combined organic layers were dried over sodium sulfate and concentrated. Purification by chromatography (SiO2, heptane:ethyl acetate:methanol=80:20:0 to 0:90:10) afforded the title compound (52 mg, 86%) as an off-white foam. MS m/e: 596.2 [M]+.

reactant | [(3R,4S)-4-(3,4-Dichloro-phenyl)-1-(piperidine-4-carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester | 0.10 mmol, 50 mg | FC1=CC=C(C=C1)OC(N(C)[C@H]1CN(C[C@@H]1C1=CC(=C(C=C1)Cl)Cl)C(=O)C1CCNCC1)=O | C24H26Cl2FN3O3
reactant | 6-chloronicotinonitrile | 0.15 mmol, 21 mg | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
reactant | N,N-diisopropyl ethyl amine | 0.30 mmol, 52 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N-methylpyrrolidinone | 0.5 mL | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | rac-[(3R,4S)-1-(5′-Cyano-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-carbonyl)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester | 52 mg, 86% | FC1=CC=C(C=C1)OC(N(C)[C@H]1CN(C[C@@H]1C1=CC(=C(C=C1)Cl)Cl)C(=O)C1CCN(CC1)C1=NC=C(C=C1)C#N)=O | C30H28Cl2FN5O3
